### PR TITLE
[Merged by Bors] - feat: `ENNReal.toNNReal` of `a - b`

### PR DESCRIPTION
**Pull request by YaelDillies**
From my PhD (MiscYD)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ENNReal/Order.lean [hunk 1]
```diff
@@ -326,6 +326,18 @@ lemma sub_ne_top_iff : a - b ≠ ∞ ↔ a ≠ ∞ ∨ b = ∞ := WithTop.sub_ne
 @[aesop (rule_sets := [finiteness]) unsafe 75% apply]
 theorem sub_ne_top (ha : a ≠ ∞) : a - b ≠ ∞ := mt sub_eq_top_iff.mp <| mt And.left ha
 
+@[simp]
+lemma toNNReal_sub (hb : b ≠ ∞) : (a - b).toNNReal = a.toNNReal - b.toNNReal := by
+  lift b to ℝ≥0 using hb
+  obtain rfl | ha := eq_or_ne a ∞
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Order.lean:332]: Here I think you want to induct on `a`, which merges this step and the `lift`.

File: Mathlib/Data/ENNReal/Order.lean [hunk 2]
```diff
@@ -326,6 +326,14 @@ lemma sub_ne_top_iff : a - b ≠ ∞ ↔ a ≠ ∞ ∨ b = ∞ := WithTop.sub_ne
 @[aesop (rule_sets := [finiteness]) unsafe 75% apply]
 theorem sub_ne_top (ha : a ≠ ∞) : a - b ≠ ∞ := mt sub_eq_top_iff.mp <| mt And.left ha
 
+@[simp]
+lemma toNNReal_sub (hb : b ≠ ∞) : (a - b).toNNReal = a.toNNReal - b.toNNReal := by
+  lift b to ℝ≥0 using hb; induction a <;> simp [← coe_sub]
+
+@[simp]
+lemma toReal_sub (hba : b ≤ a) (ha : a ≠ ∞) : (a - b).toReal = a.toReal - b.toReal := by
+  simp [ENNReal.toReal, ne_top_of_le_ne_top ha hba, toNNReal_mono ha hba]
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Order.lean:335]: Isn't this a duplicate of `toReal_sub_of_le` below?

Comment (YaelDillies) [reply Mathlib/Data/ENNReal/Order.lean]: Indeed!

File: Mathlib/Data/ENNReal/Order.lean [hunk 3]
```diff
@@ -431,12 +439,6 @@ theorem sub_le_sub_iff_left (h : c ≤ a) (h' : a ≠ ∞) :
     (a - b ≤ a - c) ↔ c ≤ b :=
   (cancel_of_ne h').tsub_le_tsub_iff_left (cancel_of_ne (ne_top_of_le_ne_top h' h)) h
 
-theorem toReal_sub_of_le {a b : ℝ≥0∞} (h : b ≤ a) (ha : a ≠ ∞) :
-    (a - b).toReal = a.toReal - b.toReal := by
-  lift b to ℝ≥0 using ne_top_of_le_ne_top ha h
-  lift a to ℝ≥0 using ha
-  simp only [← ENNReal.coe_sub, ENNReal.coe_toReal, NNReal.coe_sub (ENNReal.coe_le_coe.mp h)]
-
 theorem le_toReal_sub {a b : ℝ≥0∞} (hb : b ≠ ∞) : a.toReal - b.toReal ≤ (a - b).toReal := by
```
Comment (eric-wieser) [inline Mathlib/Data/ENNReal/Order.lean:442]: Can you put the new lemmas next to this one?

Comment (urkud) [reply Mathlib/Data/ENNReal/Order.lean:434]: They're already right after this one. Does it matter if they're before or after? IMHO, no.

Comment (urkud) [reply Mathlib/Data/ENNReal/Order.lean:434]: I wrote a reply before I saw that the lemmas were moved after this comment, then deleted it.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
